US08252935B2
a) 2-[5-(1-Benzhydryl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (58 mg, 0.13 mmol) in CH3CN (5 ml) was added α-Bromodiphenyl methane (48.0 mg, 0.19 mmol), and diisopropylethylamine (45 μl, 0.26 mmol). The reaction was microwaved at 130° C. for 10 minutes. The reaction was diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (39 mg, 49%). Calcd for C39H42F3NO2 (M+H) 613.75, Found 614.4

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.13 mmol, 58 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | diisopropylethylamine | 0.26 mmol, 45 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[5-(1-Benzhydryl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | 39 mg, 49% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C39H42F3NO2
